US05696146
Ethyl 4-(3-[(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)methylcarbonyl]indol-1-yl)butanoate
A suspension of 3-[(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)methylcarbonyl]-1H-indole (8.9 g) (see Preparation 10) in 2-butanone (200 ml) was treated with anhydrous potassium carbonate (12.2 g) and ethyl 4-bromobutanoate (5.2 g). The mixture was heated under reflux for 16 hours, filtered and evaporated. Flash chromatography (silica, eluant=dichloromethane) gave the title compound as a crystalline solid (9.68 g).

reactant | 3-[(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)methylcarbonyl]-1H-indole | 8.9 g | ClC1=CC=C(C=C1)C1(OC2=C(O1)C=CC(=C2)CC(=O)C2=CNC1=CC=CC=C21)C2=CC=C(C=C2)Cl | C29H19Cl2NO3
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutanoate | 5.2 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | Ethyl 4-(3-[(2,2-di[4-chlorophenyl]-1,3-benzodioxolan-5-yl)methylcarbonyl]indol-1-yl)butanoate | 9.68 g | ClC1=CC=C(C=C1)C1(OC2=C(O1)C=CC(=C2)CC(=O)C2=CN(C1=CC=CC=C21)CCCC(=O)OCC)C2=CC=C(C=C2)Cl | C35H29Cl2NO5
